US06635633B2
A. 1-[4-(2,4-Difluoro-benzoyl)-piperidin-1-yl]-ethanone
A stirred solution of 10 g (58.5 mmol) of 1-acetylpiperidine-4-carboxylic acid in anhydrous dichloroethane (35 mL) was treated with 5.1 mL (70.2 mmol) of thionyl chloride in 7 mL of dichloroethane and then heated to 60° C. for 30 min. Another flask containing a suspension of 8.02 mL (81.8 mmol) of 1,3-difluorobenzene and 17.9 g (134 mmol) of aluminum chloride in 55 mL of dichloroethane was prepared, to this was added the previously prepared acid chloride suspension in portions. The resulting suspension was refluxed for 4 h, cooled and then poured over ice and HCl. The acidic solution was extracted with CH2Cl2 (3×300 mL) and the combined organic extracts were washed with brine, dried over Na2SO4, and concentrated. The crude product was recrystallized from hexanes to afford 9.5 g (61%) of the desired product as a white solid. MS (electrospray): exact mass calculated for C14H15F2NO2, 267.11; m/z found, 268.1 [M+H]+, 1H NMR (CDCl3, 400 MHz): 7.87 (dt, J=8.41, 6.65 Hz 1H), 6.98 (m, 1H), 6.88 (ddd, J=10.96, 8.61, 2.35 Hz, 1H), 4.55 (m, 1H), 3.87 (m, 1H), 3.32 (dtt, J=10.76, 3.91, 1.37 Hz, 1H), 3.19 (ddd, J=13.89, 11.93, 2.93 Hz, 1H), 2.79 (ddd, J=13.89, 12.24, 2.93 Hz, 1H), 2.10 (s, 3H), 1.95 (br d, J=12.91 Hz, 2H), 1.72 (br m, 1H), 1.56 (br m, 1H).

reactant | 1-acetylpiperidine-4-carboxylic acid | 58.5 mmol, 10 g | C(C)(=O)N1CCC(CC1)C(=O)O | C8H13NO3
reactant | thionyl chloride | 70.2 mmol, 5.1 mL | S(=O)(Cl)Cl | Cl2OS
reactant | 1,3-difluorobenzene | 81.8 mmol, 8.02 mL | FC1=CC(=CC=C1)F | C6H4F2
reactant | aluminum chloride | 134 mmol, 17.9 g | [Cl-].[Al+3].[Cl-].[Cl-]
reactant | HCl | Cl | ClH
solvent | dichloroethane | 35 mL | ClC(C)Cl | C2H4Cl2
solvent | dichloroethane | 7 mL | ClC(C)Cl | C2H4Cl2
solvent | dichloroethane | 55 mL | ClC(C)Cl | C2H4Cl2
product | 1-[4-(2,4-Difluoro-benzoyl)-piperidin-1-yl]-ethanone | 9.5 g, 61% | FC1=C(C(=O)C2CCN(CC2)C(C)=O)C=CC(=C1)F | C14H15F2NO2
